US05958918
A. 7-Methoxy-2-napthalenesulfonic acid [1-(3-cyanobenzyl)-2-oxoazetidin-3-(S)-yl]benzylamide
The title compound is prepared as described in EXAMPLE 25, Part A using 7-methoxynaphthalene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxoazetidin-3-(S)-yl]amide, prepared as described in Example 65, part D, and benzyl bromide. The crude product is purified by column chromatography eluting with gradient of 30% EtOAc/hexanes to 40% EtOAc/hexanes to afford the title compound as a white foam.

reactant | 7-methoxynaphthalene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxoazetidin-3-(S)-yl]amide | C(#N)C=1C=C(CN2C([C@H](C2)NS(=O)(=O)C2=CC3=CC(=CC=C3C=C2)OC)=O)C=CC1 | C22H19N3O4S
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 7-Methoxy-2-napthalenesulfonic acid [1-(3-cyanobenzyl)-2-oxoazetidin-3-(S)-yl]benzylamide | C(#N)C=1C=C(CN2C([C@H](C2)N(S(=O)(=O)C2=CC3=CC(=CC=C3C=C2)OC)CC2=CC=CC=C2)=O)C=CC1 | C29H25N3O4S
